US05668614
The compounds (R)-(+)-2-hydroxy-2-pentoxy-1,1'-binaphthalene and (R)-(+)-2,2'-dipentoxy-1,1'-binaphthalene were prepared as follows. 1 g (3.49 mmol) (R)-(+)-2,2'-dihydroxy-1,1'-binaphthalene and 0.99 g (5 mmol) iodopentane were dissolved in 40 ml acetone while stirring. 6.99 g of potassium carbonate and 7.99 g (57.9 mmol) potassium bromide was added in one portion. After 24 hours stirring at room temperature, 1 g potassium carbonate was added. The reaction mixture was heated to 45° C. for 30 minutes. The excess potassium carbonate and potassium bromide were filtered and the solvent of the filtrate was removed with a rotavap. The crude product was purified by flash column with silica gel and dichloromethane as the eluent to obtain 370 mg of product consisting of 25% of the monosubstituted product and 56% of the disubstituted product.

reactant | iodopentane | 5 mmol, 0.99 g | ICCCCC | C5H11I
reactant | potassium carbonate | 6.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium bromide | 57.9 mmol, 7.99 g | [Br-].[K+]
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (R)-(+)-2-hydroxy-2-pentoxy-1,1'-binaphthalene | O[C@@]1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)OCCCCC | C25H26O2
